* C:\Users\Chris\Dropbox\ContextualElectronics\projects\BenchBuddy\SPICE\CurrentSource.asc
XU1 N002 Sense V+ V- N003 LT1001
V1 V+ 0 12
V2 0 V- 12
R1 Sense 0 40
M1 FET N003 Sense Sense BSB012NE2LX
V3 DAC 0 PULSE(4 0 100m .1m .1m 50m)
R2 N001 FET 2
V4 5V 0 5
D1 FET N001 1N914
C1 N001 FET 10n
R5 N002 DAC 1K
V5 PWM 0 PULSE(0 5 0 .1m .1m 1m 2m 10000)
M3 N002 PWM 0 0 Si7540DP_N
R6 V+ N001 2
M4 Sense MODE 0 0 Si7540DP_N
V6 MODE 0 5
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 0 .1 0
* .STEP PARAM Rload 2 20 2
.PARAM Rload 2
.lib LTC.lib
.backanno
.end
